US05817693
d) Ethyl(1RS)-1-Hydroxy-1-(4-methoxyphenyl)-3-(3,4-methylenedioxyphenyl)indene-2-carboxylate
A solution of 4-bromoanisole (0.89 g, 5.0 mmol) in 9:1 Et2O/THF (10 ml) was added to magnesium turnings (0.105 g, 5.0 mmol), and the resulting mixture was allowed to stir for 30 min. The resultant 4-methoxyphenyl magnesium bromide was added dropwise to a solution of ethyl 3-(3,4-methylenedioxyphenyl)-1-oxoindene-2-carboxylate (0.77 g, 2.4 mmol) in 10:1 Et2O/THF (55 ml) at 0° C. The resulting mixture was stirred at 0° C. for 1 h and was then partitioned between EtOAc and 1M HCl. The aqueous phase was extracted with EtOAc, and the combined organic extracts were washed successively with 5% aqueous NaHCO3 and saturated aqueous NaCl and dried (MgSO4). The solvent was removed under reduced pressure, and the residue was purified by flash chromatography on silica gel, eluting with 10% EtOAc/hexanes to afford the title compound as a yellow glassy solid (0.80 g, 80%).

reactant | 4-bromoanisole | 5.0 mmol, 0.89 g | BrC1=CC=C(C=C1)OC | C7H7BrO
reactant | magnesium | 5.0 mmol, 0.105 g | [Mg] | Mg
reactant | 4-methoxyphenyl magnesium bromide | COC1=CC=C(C=C1)[Mg]Br
reactant | ethyl 3-(3,4-methylenedioxyphenyl)-1-oxoindene-2-carboxylate | 2.4 mmol, 0.77 g | C1OC=2C=C(C=CC2O1)C1=C(C(C2=CC=CC=C12)=O)C(=O)OCC | C19H14O5
solvent | Et2O THF | 55 ml | CCOCC.C1CCOC1
solvent | Et2O THF | 10 ml | CCOCC.C1CCOC1
product | Ethyl(1RS)-1-Hydroxy-1-(4-methoxyphenyl)-3-(3,4-methylenedioxyphenyl)indene-2-carboxylate | 0.80 g, 80% | OC1(C(=C(C2=CC=CC=C12)C1=CC2=C(C=C1)OCO2)C(=O)OCC)C2=CC=C(C=C2)OC | C26H22O6
